US04058557
To a suspension of 12.0 g. (0.11 mole) of methoxyguanidine hydrochloride in tetrahydrofuran (100 ml.) is added 8.8 g. (0.11 mole) of fifty percent (w/w) aqueous sodium hydroxide. After one hour of stirring, 5.0 g. of anhydrous sodium sulfate is added and the mixture is stirred for an additional hour. A solution of 14.7 g. (0.1 mole) of 2,6-dimethylphenylisocyanate in tetrahydrofuran (30 ml.) is added dropwise after which the mixture is stirred at room temperature overnight. The tetrahydrofuran is removed under vacuum and the residue partitioned between water and chloroform. The layers are separated and the aqueous layer extracted with chloroform (4×100 ml.). The combined organic extracts are washed with water (1×50 ml.), dried over anhydrous magnesium sulfate and filtered. The filtrate is acidified with ethereal HCl and the solvents removed in vacuo to give a brown oil which is crystallized from acetonitrile to give 1-(2,6-dimethylphenyl)-3-methoxyamidinourea hydrochloride, m.p. 170°-1° C.

reactant | methoxyguanidine hydrochloride | 0.11 mole | Cl.CONC(=N)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,6-dimethylphenylisocyanate | 0.1 mole | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2,6-dimethylphenyl)-3-methoxyamidinourea hydrochloride | Cl.CC1=C(C(=CC=C1)C)NC(=O)NC(NOC)=N | InChI=1S/C11H16N4O2.ClH/c1-7-5-4-6-8(2)9(7)13-11(16)14-10(12)15-17-3;/h4-6H,1-3H3,(H4,12,13,14,15,16);1H
